US04892870
A mixture of 20 g (60 mmol) of 4-[(3,5-di-tert-butyl-4-hydroxyphenyl)hydroxymethyl]-2-methyl-3-isoxazolidinone and 0.4 g of p-toluenesulfonic acid monohydrate in 300 ml of benzene was refluxed for 5 hours. The reaction mixture was concentrated and the concentrate triturated in 150 ml of ether to yield 10 g of the E-isomer of 4-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-methyl-3-isoxazolidinone having a melting point of 194°-196° C.

reactant | 4-[(3,5-di-tert-butyl-4-hydroxyphenyl)hydroxymethyl]-2-methyl-3-isoxazolidinone | 60 mmol, 20 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C1C(N(OC1)C)=O)O | C19H29NO4
reactant | p-toluenesulfonic acid monohydrate | 0.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 4-(3,5-di-tert-butyl-4-hydroxybenzylidene)-2-methyl-3-isoxazolidinone | C(C)(C)(C)C=1C=C(C=C2C(N(OC2)C)=O)C=C(C1O)C(C)(C)C | C19H27NO3
